US06787543B2
4N Hydrogen chloride in 1,4-dioxane (44 ml) was added to a solution of 4-tert-butoxycarbonyl-2-benzhydryl-1-methylpiperazine (6.5 g) in ethanol (33 ml) under ice-cooling over 30 minutes. The mixture was stirred at room temperature for 4 hours and evaporated under reduced pressure. The residue was triturated with diisopropyl ether and the resulting solid was collected by filtration to give 2-benzhydrylpiperazine dihydrochloride (6.02 g) as a powder.

reactant | Hydrogen chloride | 4N | Cl | ClH
reactant | 4-tert-butoxycarbonyl-2-benzhydryl-1-methylpiperazine | 6.5 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)C)C(C1=CC=CC=C1)C1=CC=CC=C1 | C23H30N2O2
solvent | 1,4-dioxane | 44 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 33 ml | C(C)O | C2H6O
product | 2-benzhydrylpiperazine dihydrochloride | 6.02 g | Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)C1NCCNC1 | InChI=1S/C17H20N2.2ClH/c1-3-7-14(8-4-1)17(15-9-5-2-6-10-15)16-13-18-11-12-19-16;;/h1-10,16-19H,11-13H2;2*1H
